US06335344B1
A mixture of 8-chloro-[1,3]dioxolo[4,5-g]quinazoline (0.200 g, 1.04 mmol) and 3-ethynylaniline (0.127 g, 1.09 mmol) in 5 mL isopropanol was heated to reflux overnight, then cooled to ambient temperature. Precipitate was collected and washed to give [1,3]dioxolo[4,5-g]quinazolin-8-yl-(3-ethynyl-phenyl)-amine (0.266 g, 78%): mp greater than 350° C.

reactant | 8-chloro-[1,3]dioxolo[4,5-g]quinazoline | 1.04 mmol, 0.200 g | ClC1=NC=NC=2C=C3C(=CC12)OCO3 | C9H5ClN2O2
reactant | 3-ethynylaniline | 1.09 mmol, 0.127 g | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | [1,3]dioxolo[4,5-g]quinazolin-8-yl-(3-ethynyl-phenyl)-amine | 0.266 g, 78% | O1COC=2C1=CC=1C(=NC=NC1C2)NC2=CC(=CC=C2)C#C | C17H11N3O2
